US08629168B2
c) 1-Ethyl-4-(2-methyl-4-nitro-benzyl)-piperazine
A solution of 1 g (3.78 mmol) 1-bromomethyl-2-methyl-4-nitro-benzene, 0.539 ml (4.16 mmol) 1-ethylpiperazine and 0.63 ml (4.54 mmol) triethylamine in 15 ml dichloromethane is stirred at room temperature for 0.5 h. Then the reaction mixture is poured on water and extracted 3× with EtOAc. The combined organic layers are washed with water and saturated NaCl solution, dried over MgSO4, filtered and the filtrate is concentrated in vacuo. The residue is purified by chromatography (silicagel, 100% EtOAc=>EtOAc:MeOH=7:3) to afford the title compound as a solid.

reactant | 1-bromomethyl-2-methyl-4-nitro-benzene | 3.78 mmol, 1 g | BrCC1=C(C=C(C=C1)[N+](=O)[O-])C | C8H8BrNO2
reactant | 1-ethylpiperazine | 4.16 mmol, 0.539 ml | C(C)N1CCNCC1 | C6H14N2
reactant | triethylamine | 4.54 mmol, 0.63 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-Ethyl-4-(2-methyl-4-nitro-benzyl)-piperazine | C(C)N1CCN(CC1)CC1=C(C=C(C=C1)[N+](=O)[O-])C | C14H21N3O2
